US06800623B2
Synthesis of 4-ethyl-4,5-dihydro-1,3-dithia-4-aza-acenaphthylene 3,3-dioxide
1.90 g of N-ethyl-benzo[b]thiophene-3-sulphonamide are dissolved in 25 ml methanesulphonic acid at 35° C. and combined with a solution of 0.29 g of trioxane in 8 ml of trifluoroacetic acid. After 2.5 h stirring at ambient temperature the reaction mixture is poured onto 400 ml of ice water. The solid formed is separated off by filtration, washed with 200 ml of water and then dissolved while hot in 400 ml of ethanol/isopropanol (1:1) and separated from solid residues by filtering again. The residue remaining after the concentration of the filtrate is purified by chromatography. Yield: 0.82 g. M.p.: 156° C.

reactant | N-ethyl-benzo[b]thiophene-3-sulphonamide | 1.90 g | C(C)NS(=O)(=O)C=1C2=C(SC1)C=CC=C2 | C10H11NO2S2
reactant | trioxane | 0.29 g | O1OOCCC1 | C3H6O3
solvent | methanesulphonic acid | 25 ml | CS(=O)(=O)O | CH4O3S
solvent | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-ethyl-4,5-dihydro-1,3-dithia-4-aza-acenaphthylene 3,3-dioxide | C(C)N1S(C2=CSC=3C=CC=C(C1)C32)(=O)=O | C11H11NO2S2
